US08633189B2
4-Bromo-2-methyl-phenol (3.63 g, 19.41 mmol) was dissolved in dichloromethane (18 mL) and triethylamine (5.41 mL, 38.80 mmol), cooled to 0° C., then treated with methyl chloroformate (2.25 mL, 29.12 mmol) and allowed to warm to room temperature over 2 h. The reaction was quenched with water and the layers separated. The aqueous layer was extracted with dichloromethane and the combined organic extracts was dried over Na2SO4, filtered, and concentrated in vacuo to yield an oil that was purified by silica gel chromatography (10% ethyl acetate/hexane) to yield 4-bromo-2-methylphenyl methyl carbonate (4.1 g, 86% yield) as a white solid. 1H NMR (400.0 MHz, DMSO-d6) δ 7.56 (d, J=2.1 Hz, 1H), 7.44 (dd, J=2.3, 8.6 Hz, 1H), 7.18 (d, J=8.6 Hz, 1H), 3.84 (s, 3H), 2.15 (s, 3H).

reactant | 4-Bromo-2-methyl-phenol | 19.41 mmol, 3.63 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | triethylamine | 38.80 mmol, 5.41 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 29.12 mmol, 2.25 mL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | 4-bromo-2-methylphenyl methyl carbonate | 4.1 g, 86% yield | C(OC1=C(C=C(C=C1)Br)C)(OC)=O | C9H9BrO3
